US07465795B2
4-amino-8-(2,5-difluoro-4-methoxy-phenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (116 mg, 0.375 mmol) and (2,5-difluoro-4-methoxyphenyl)boronic acid (140 mg, 0.75 mmol) were reacted to afford the title compound (93 mg, 67% yield) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 9.15 (t, J=6.0 Hz, 1H), 8.46 (dd, J=8.0, 1.7 Hz, 1H), 7.76-7.86 (m, 2H), 7.44 (dd, J=11.8, 6.8 Hz, 1H), 7.22 (dd, J=11.3, 7.4 Hz, 1H), 3.93 (s, 3H), 3.29 (apparent q, J=7.0 Hz, 2H), 1.59 (apparent sextet, J=7.0 Hz, 2H), 0.91 (t, J=7.0 Hz, 3H). MS APCI, m/z=373 (M+H) HPLC 2.03 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.375 mmol, 116 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | (2,5-difluoro-4-methoxyphenyl)boronic acid | 0.75 mmol, 140 mg | FC1=C(C=C(C(=C1)OC)F)B(O)O | C7H7BF2O3
product | 4-amino-8-(2,5-difluoro-4-methoxy-phenyl)-N-propyl-cinnoline-3-carboxamide | 93 mg, 67% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=C(C(=C1)F)OC)F)C(=O)NCCC | C19H18F2N4O2
